T1
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 0 3 5.20102702949

* resistors
R1 0 1 1.04001336091k
R2 2 1 2.04372276851k
R3 1 4 3.11359737601k
R4 4 3 4.17085404861k
R5 4 5 3.02859283303k
R6 3 6 2.070545767k
R7 7 8 1.01835949725k

*independent current sourceS
Id 8 5 1.00460501759m

* voltage-controlled current source
Gib 5 2 (1,4) 7.19043597753m

* control voltage source
Vctrl 6 7 0

* current-controlled voltage source
H1Vc 4 8 Vctrl 8.06397385506k



.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"


quit
.endc

.end
